US06194406B1
1-(2-Methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Combine 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine (prepared from (−)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine(R,R)-di-p-anisoyltartaric acid salt) (0.40 g, 0.85 mmol), 4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt (0.44 g, 0.85 mmol) (1.51 g, 3.2 mmol), sodium iodide (0.127 g, 0.84 mmol), and triethylamine (0.59 mL, 4.23 mmol) in acetonitrile (20 mL). Heat to reflux. After 30 hours, cool to ambient temperature and evaporate in vacuo, and partition the evaporated reaction mixture between dichloromethane and a saturated aqueous sodium bicarbonate solution. Separate the organic layer and extract three times with water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with dichloromethane, 5% methanol/dichloromethane, 10% methanol/dichloromethane, and then 25% methanol/dichloromethane to give the title compound.

reactant | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | 0.85 mmol, 0.40 g | COC1=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C22H25N5O5S
reactant | 4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | 0.85 mmol, 0.44 g | I.OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2
reactant | sodium iodide | 0.84 mmol, 0.127 g | [I-].[Na+]
reactant | triethylamine | 4.23 mmol, 0.59 mL | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | methanol dichloromethane | CO.ClCCl
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-Methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CCO)C=CC=C3)C=C(C=C1)N1N=NN=C1 | C35H41N9O3
